US08183245B2
tert-butyl 4-{6-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}piperazine-1-carboxylate (0.047 g, 0.10 mmol) was suspended in dioxane (1.0 ml). 4M HCl in dioxane (1.0 ml) was added, and the reaction mixture was stirred at room temperature for 45 min. The reaction mixture was filtered to afford 5-(1-methyl-1H-pyrazol-4-yl)-3-(6-piperazin-1-ylpyrazin-2-yl)-1H-pyrrolo[2,3-b]pyridine as an orange/yellow solid (hydrochloride salt). 1H NMR (600 MHz, DMSO-D6) 12.4 (br s, 1H); 9.41 (br s, 2H); 8.71 (br d, 1H); 8.56 (s, 1H); 8.55 (d, 1H); 8.39 (d, 1H); 8.19 (s, 1H); 8.18 (s, 1H); 7.89 (s, 1H); 3.93 (br t, 4H); 3.87 (s, 3H); 3.25 (br m, 4H). LRMS calculated for C19H20N8 [M+H]+, 361.2; found 361.2.

reactant | tert-butyl 4-{6-[5-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-3-yl]pyrazin-2-yl}piperazine-1-carboxylate | 0.10 mmol, 0.047 g | CN1N=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=CN=CC(=N2)N2CCN(CC2)C(=O)OC(C)(C)C | C24H28N8O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | 5-(1-methyl-1H-pyrazol-4-yl)-3-(6-piperazin-1-ylpyrazin-2-yl)-1H-pyrrolo[2,3-b]pyridine | CN1N=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=NC(=CN=C2)N2CCNCC2 | C19H20N8
